US04537924
TINUVIN 622
This is an oligo ester of succinic acid and 1-hydroxyethyl-4-hydroxy-2,2,6,6-tetramethylpiperidine of Ciba-Geigy, Basel.

reactant | succinic acid | C(CCC(=O)O)(=O)O | C4H6O4
reactant | 1-hydroxyethyl-4-hydroxy-2,2,6,6-tetramethylpiperidine | OC(C)N1C(CC(CC1(C)C)O)(C)C | C11H23NO2
product | TINUVIN 622 | CC1(CC(CC(N1CCOC(=O)CCC(=O)O)(C)C)O)C | C15H27NO5
